US08541404B2
A mixture of 8-chloro-6-pyridin-3-yl-3,4-dihydro-1H-quinolin-2-one (900 mg, 3.48 mmol) and Lawessons reagent (985 mg, 2.44 mmol) was refluxed in 50 ml toluene for 2 h. After evaporation of the solvent under reduced pressure, the residue was purified by flash chromatography on silica gel (ethyl acetate, Rf=0.26) and crystallization from acetone/diethylether. 8-Chloro-6-pyridin-3-yl-3,4-dihydro-1H-quinoline-2-thione was obtained as yellow needles (212 mg, 0.77 mmol, 22%), mp (acetone/diethylether) 175° C. 1H-NMR (500 MHz, DMSO-d6): δ=2.91 (m, 2H), 3.00 (m, 2H), 7.46 (ddd, 3J=7.9 Hz, 3J=4.9 Hz, 5J=0.9 Hz, 1H), 7.66 (d, 4J=2.1 Hz, 1H), 7.76 (d, 4J=2.0 Hz, 1H), 8.09 (ddd, 3J=7.9 Hz, 4J=2.4 Hz, 4J=1.5 Hz, 1H), 8.56 (dd, 3J=4.9 Hz, 4J=1.5 Hz, 1H), 8.91 (dd, 4J=2.4 Hz, 5J=0.9 Hz, 1H), 11.31 (bs, 1H). 13C-NMR (125 MHz, DMSO-d5): δ=25.6, 39.4, 120.5, 123.8, 125.2, 126.0, 129.7, 133.4, 133.6, 133.8, 133.9, 147.5, 148.8, 201.5. MS m/z=273.95 (M35Cl+), 275.95 (M37Cl+).

reactant | 8-chloro-6-pyridin-3-yl-3,4-dihydro-1H-quinolin-2-one | 3.48 mmol, 900 mg | ClC=1C=C(C=C2CCC(NC12)=O)C=1C=NC=CC1 | C14H11ClN2O
reactant | Lawessons reagent | 2.44 mmol, 985 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | acetone diethylether | CC(=O)C.C(C)OCC
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 8-Chloro-6-pyridin-3-yl-3,4-dihydro-1H-quinoline-2-thione | ClC=1C=C(C=C2CCC(NC12)=S)C=1C=NC=CC1 | C14H11ClN2S
